US04374248
C. 4-Chloromethyl-2-(N-carbophenoxy-N-methylamino)methylthiazole
To a cooled solution of (N-carbophenoxy-N-methylamino)thioacetamide (1.0 g; 4.46 mmoles) and dry pyridine (0.36 ml, 4.46 mmoles) in 6 ml of absolute ethanol was added a solution of 1,3-dichloropropanone (0.57 g; 4.49 mmoles) in 3 ml of absolute ethanol. The mixture was heated at reflux temperature for 1.5 hours, then evaporated under reduced pressure and the oil residue partitioned between ether and water. The aqueous layer was extracted with ether and the combined ether phase was washed with water, saturated aqueous sodium chloride solution and dried. Filtration and evaporation yielded 1.02 g of the title compound as a viscous oil; TLC [silica/CH2Cl2 :CH3CN (85:15)] gave Rf=0.82. The NMR spectrum (60 MHz) in CDCl3 gave the following resonances δ: 7.16 (m, 6H); 4.77 (broad s, 2H); 4.60 (s, 2H); 3.07 (broad s, 3H).

reactant | (N-carbophenoxy-N-methylamino)thioacetamide | 4.46 mmoles, 1.0 g | C(=O)(OC1=CC=CC=C1)N(C)CC(=S)N | C10H12N2O2S
reactant | pyridine | 4.46 mmoles, 0.36 ml | N1=CC=CC=C1 | C5H5N
reactant | 1,3-dichloropropanone | 4.49 mmoles, 0.57 g | ClCC(CCl)=O | C3H4Cl2O
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 4-Chloromethyl-2-(N-carbophenoxy-N-methylamino)methylthiazole | 1.02 g | ClCC=1N=C(SC1)CN(C)C(=O)OC1=CC=CC=C1 | C13H13ClN2O2S
